US07691850B2
c) 2,2,2-trifluoro-N-{[(3R,4S)-4-hydroxy-3-pyrrolidinyl]methyl}acetamide
(1,1-dimethylethyl(3S,4S)-3-hydroxy-4-{[(trifluoroacetyl)amino]methyl}-1-pyrrolidinecarboxylate (0.192 g, 0.615 mmol) was dissolved in methylene chloride (5 mL). HCl in dioxane (1.0 mL, 4.0 mmol) was added and the solution stirred at ambient temperature for 2 hours. The solvent was removed under reduced pressure. (0.137 g, quant.) LCMS: m/z 213.2 (MH+).

reactant | 1,1-dimethylethyl(3S,4S)-3-hydroxy-4-{[(trifluoroacetyl)amino]methyl}-1-pyrrolidinecarboxylate | 0.615 mmol, 0.192 g | O[C@@H]1CN(C[C@@H]1CNC(C(F)(F)F)=O)C(=O)OC(C)(C)C | C12H19F3N2O4
reactant | HCl | Cl | ClH
reactant | dioxane | 4.0 mmol, 1.0 mL | O1CCOCC1 | C4H8O2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 2,2,2-trifluoro-N-{[(3R,4S)-4-hydroxy-3-pyrrolidinyl]methyl}acetamide | FC(C(=O)NC[C@H]1CNC[C@H]1O)(F)F | C7H11F3N2O2
